US03984432
20 g of n-butanephosphonic acid n-butyl ester chloride are added dropwise to a suspension of 14.3 g of sodium 3-nitrophenolate in 170 ml of toluene at 20° C. After 4 hours, the mixture is filtered, the filtrate is evaporated and the residue is distilled in vacuo at 0.1 mm Hg. 16 g of n-butanephosphonic acid n-butyl-(3-nitro-phenyl) ester are obtained. After reduction with hydrogen and palladium on charcoal, in isopropanol, at 1 atmosphere pressure, 13.8 g of n-butanephosphonic acid n-butyl-(3-aminophenyl) ester are obtained.

reactant | n-butanephosphonic acid n-butyl ester chloride | 20 g | [Cl-].C(CCC)OP(O)(=O)CCCC
reactant | sodium 3-nitrophenolate | 14.3 g | [N+](=O)([O-])C=1C=C(C=CC1)[O-].[Na+]
reactant | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | n-butanephosphonic acid n-butyl-(3-nitro-phenyl) ester | 16 g | C(CCC)C1=C(C=CC=C1[N+](=O)[O-])OP(O)(=O)CCCC | C14H22NO5P
